US07772245B2
The crude 1-benzyl-4-(2-methoxyphenyl)piperidin-3-one (0.7 g, 2.37 mmol) obtained in the previous step was dissolved in 4 mL of glacial acetic acid. To this solution, 48% hydrobromic acid (4 mL) was added, and the mixture was refluxed under N2 for 4 h. After cooling to room temperature, the reaction mixture was poured over ice cold ethyl acetate (50 mL) and concentrated ammonium hydroxide solution (50 mL). The organic phase was washed with water, brine, dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure and the residue was purified by silica gel column chromatography to give 2-benzyl-1,2,3,4-tetrahydro[1]benzofuro[2,3-c]pyridine (200 mg, 33%). 1H NMR (200 MHz, CDCl3): δ 2.70-2.76 (m, 2H) 2.85-2.91 (m, 2H), 3.67 (t, J=1.8 Hz, 2H), 3.78 (s, 2H), 7.18-7.45 (m, 9H); m/e=263 (M+).

reactant | 1-benzyl-4-(2-methoxyphenyl)piperidin-3-one | 2.37 mmol, 0.7 g | C(C1=CC=CC=C1)N1CC(C(CC1)C1=C(C=CC=C1)OC)=O | C19H21NO2
reactant | hydrobromic acid | 4 mL | Br | BrH
reactant | ammonium hydroxide | 50 mL | [OH-].[NH4+]
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
product | 2-benzyl-1,2,3,4-tetrahydro[1]benzofuro[2,3-c]pyridine | 200 mg, 33% | C(C1=CC=CC=C1)N1CC2=C(CC1)C1=C(O2)C=CC=C1 | C18H17NO
